Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
atorvastatin / Cipro
 
Attending: ___.
 
Chief Complaint:
Chest pain  
 
Major Surgical or Invasive Procedure:
Cardiac pharmacologic nuclear stress test (___)

 
History of Present Illness:
 Mr ___ is a ___ man with a history of CAD, HIV on ART 
reportedly with undetectable VL), HCV s/p Harvoni (reportedly 
with undetectable VL), CAD s/p multiple stents, CKD (baseline Cr 
1.5), HTN, COPD presents for evaluation of substernal chest 
pain, non-radiating, that started at 0600AM and woke him up from 
sleep. Has chronic ___ swelling. Slightly increased SOB. 
Non-positional CP. Feels like prior MI. ASAx4 and Nitro x1 
without alleviation. He denies inspiratory chest pain. Dry cough 
ongoing. No emesis. 1x episode of nausea.  
 Of note patient was recently admitted ___ for treatment 
of a LLL PNA, discharged on Levofloxacin.  
 
 ___ stress: poor exercise tolerance. No reproduction of 
symptoms. inferior leads with non-specific st depressions  
 
 In the ED, initial VS were 68 130/70 18 98% RA .  
 Exam normal  
 Labs showed trop<0.01, Cr 2.1, Hgb 7.9  
 Ekg nsr lad v1-v2<1mm ste cwp  
 Imaging showed CXR with patchy lesion (atelectasis v infection) 
 
 Received 2mg IV Morphine  
 Transfer VS were 97.6 67 132/67 17 99% RA  
 Decision was made to admit to medicine for further management.  

 
 On arrival to the floor, patient reports, ongoing ___ chest 
pain. Repeat EKG was largely unchanged from prior. Repeat Trp 
was negative. Patient was given SLN x2 with improvement in CP 
from ___ to ___ and then Simethicone with relief in chest 
pain down to ___. He then went to sleep.  
 
 REVIEW OF SYSTEMS:  
 Denies fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
abdominal pain, nausea, vomiting, diarrhea, constipation, BRBPR, 
melena, hematochezia, dysuria, hematuria.  
 All other 10-system review negative in detail.  
 
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +CKD, + HIV  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: CAD s/p Promus DES to 
mid-LAD, D1 branch, and distal-RCA on ___, s/p Premier DES 
to mLCX on ___. LAD ___.  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 -HFpEF  
 -Mild AR  
 -CKD (Cr 1.4)  
 -PAD  
 -SIADH  
 -HIV  
 -HCV cirrhosis  
 -portal HTN  
 -GERD  
 -chronic diarrhea  
 -cervical stenosis  
 -COPD  
 -colonic polyps  
 -ACD  
 -G6PD deficiency  
 -peripheral neuropathy  
 -? pulmonary TB  
 -+RPR treated in the ___  
 
Social History:
___
Family History:
Mother with heart disease diagnosed at age ___. Brother with 
cardiomegaly.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=============================
VS -  T 97.3 HR 67 BP 180/71 RR 18 O2Sat 100% RA
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
=============================
Vitals: Tc 98.8 Tm 98.8 BP 184/74 (140-184/64-75) HR 71 (71-82) 
RR 18 O2Sat 98 RA 24hr I/O: ___ net -820, 8hr I/O: ___, 
net -450 
General: Pt is resting comfortably in bed. No acute distress. 
Thin stature. Appears younger than his stated age. Appropriately 
interactive. Burping during the exam.
HEENT:  NC/AT. PERRLA. Anicteric sclera, pink conjunctiva. MMM. 
NO OP lesions. 
Lymph:  No cervical or supraclavicular LAD.
CV:  Normal rate and regular rhythm. S1/S2 audible. No m/r/g. No 
JVD. 
Lungs:  Nonlabored breathing. No nasal flaring or costovertebral 
retraction. No longer hearing intermittent crackles at bases 
bilaterally. No wheezes or rhonchi. Sleeping on one pillow. No 
tenderness to palpation over chest.
Abdomen:  Hyperactive BS throughout. Soft, very distended 
(baseline per patient), no longer tender to palpation in RUQ. No 
rebound/guarding. Negative ___. No hepatosplenomegaly. 
GU:  No foley. 
Ext: Warm and well perfused. No clubbing, cyanosis or edema.  
Neuro: A&Ox3. CNII-CNXII grossly intact. Sensation intact to 
light touch throughout. Strength ___ in b/l UE and ___. Gait not 
assessed.  
Skin: No rashes or bruises. 

 
Pertinent Results:
ADMISSION LABS:
========================
___ 11:53PM   cTropnT-<0.01
___ 11:22PM URINE  HOURS-RANDOM UREA N-545 CREAT-124 
SODIUM-21
___ 11:22PM URINE  OSMOLAL-416
___ 11:22PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:22PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 11:22PM URINE  RBC-0 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:22PM URINE  GRANULAR-3*
___ 06:00PM   GLUCOSE-134* UREA N-35* CREAT-2.1* 
SODIUM-125* POTASSIUM-5.1 CHLORIDE-96 TOTAL CO2-18* ANION GAP-16
___ 06:00PM   estGFR-Using this
___ 06:00PM   cTropnT-<0.01
___ 06:00PM   CALCIUM-8.7 MAGNESIUM-1.6
___ 06:00PM   OSMOLAL-272*
___ 06:00PM   WBC-6.3 RBC-2.63* HGB-7.9* HCT-26.1* MCV-99* 
MCH-30.0 MCHC-30.3* RDW-12.7 RDWSD-46.1
___ 06:00PM   NEUTS-70.4 LYMPHS-17.9* MONOS-8.2 EOS-3.0 
BASOS-0.2 NUC RBCS-0.3* IM ___ AbsNeut-4.45# AbsLymp-1.13* 
AbsMono-0.52 AbsEos-0.19 AbsBaso-0.01
___ 06:00PM   PLT COUNT-107*
___ 06:00PM   ___ PTT-40.1* ___

MICROBIOLOGY:
========================
Urine Cx (___): No growth (final)
HIV-1 Viral Load/Ultrasensitive (___): HIV-1 RNA is not 
detected.

IMAGING:
========================
CXR PA & LAT x-ray (___):  
FINDINGS:    
Moderate enlargement of the cardiac silhouette is unchanged.  
The mediastinal and hilar contours are similar with mild 
tortuosity of thoracic aorta appearing unchanged.  Pulmonary 
vasculature is not engorged.  No focal consolidation, pleural 
effusion or pneumothorax is present.  Patchy opacities noted in 
the lung bases bilaterally, more so on the right.  Cervical 
spinal fusion hardware is incompletely imaged.  No acute osseous 
abnormalities detected. 
IMPRESSION:  
Patchy bibasilar airspace opacities, more so on the right, may 
reflect atelectasis, though infection is not excluded in the 
correct clinical setting. 

ABDOMEN X-RAY (supine and erect) (___): 
FINDINGS:  
No evidence of free air.  There is mild gaseous distention of 
several loops of small large bowel. 
IMPRESSION:  
No evidence of obstruction. 

RENAL U/S w/DOPPLER (___):
FINDINGS:  
The right kidney measures 9.0 cm. The left kidney measures 10.0 
cm. There is no hydronephrosis, stones, or masses bilaterally.  
Normal cortical echogenicity and corticomedullary 
differentiation are seen bilaterally. 
Renal Doppler: Intrarenal arteries show normal waveforms with 
sharp systolic peaks and continuous antegrade diastolic flow. 
The resistive indices of the right intra renal arteries range 
from 0.73-0.86.   The resistive indices on the left range from 
0.70-0.84. Bilaterally, the main renal arteries are patent with 
normal waveforms. The peak systolic velocity on the right is 116 
centimeters/second. The peak systolic velocity on the left is 77 
centimeters/second. Main renal veins are patent bilaterally with 
normal waveforms. 
The bladder is moderately well distended and normal in 
appearance. 
IMPRESSION:
Normal renal ultrasound.  No evidence of renal artery stenosis.

CARDIAC STUDIES:
========================
Persantine stress test (___):
INTERPRETATION: This ___ year old man with h/o CKD, HIV, HTN, 
COPD, 
and HFpEF; s/p multiple PCIs was referred to the lab for 
evaluation of chest pain. The patient was administered 0.142 
mg/kg/min of Persantine over four minutes. During infusion, the 
patient noted ___ abdominal discomfort with ___ substernal 
chest discomfort, improving with inspiration noted post 
infusion. These discomforts resolved slowly after administration 
of 4L of O2 and 125 mg of Aminophylline IV. In the presence of 
baseline NSSTTW, an additional 1 mm of downsloping ST segment 
depression was noted in the inferolateral leads, returning to 
baseline slowly by minute 24 post infusion. The rhythm was sinus 
with rare, isolated APBs and one VPB throughout the study. 
Baseline systolic hypertension with an appropriate hemodynamic 
response to the infusion. 
IMPRESSION: Ischemic EKG changes in the presence of probable 
anginal 
type symptoms. Baseline systolic hypertension. Nuclear report 
sent 
separately. 

Cardiac perfusion studies (___):
The image quality is adequate but limited due to soft tissue and 
left arm attenuation.  
Left ventricular cavity size is normal. 
Rest and stress perfusion images reveal a partially reversible, 
moderate reduction in photon counts involving the entire 
anterior wall, the mid anteroseptum and the apex.  There is also 
a partially reversible, mild reduction in photon counts 
involving the mid and basal anterolateral and inferolateral 
walls.  These findings are uncertain in the setting of left arm 
attenuation. 
Gated images reveal normal wall motion.  
The calculated left ventricular ejection fraction is 56% with an 
EDV of 101 ml. 
IMPRESSION: 
1. Probable partially reversible, large, moderate severity 
perfusion defect involving the LAD territory. 
2. Probable partially reversible, medium sized, mild perfusion 
defect involving the LCx territory. 
3. Normal left ventricular cavity size and systolic function.   
Compared with prior study of ___, the perfusion defects 
are new (prior study did not have left arm attenuation). 

ECG (___): NSR HR 76, PR 158 ms RR 782 ms QRS 88 ms, QTc 420 
ms, q wave in aVL, no clear ischemic changes, and no change from 
prior.

PERTINENT AND DISCHARGE LABS:
==============================
___ 06:08AM BLOOD WBC-6.1 RBC-2.62* Hgb-8.1* Hct-25.6* 
MCV-98 MCH-30.9 MCHC-31.6* RDW-12.8 RDWSD-45.2 Plt Ct-98*
___ 06:15AM BLOOD WBC-4.4 RBC-2.51* Hgb-7.8* Hct-24.6* 
MCV-98 MCH-31.1 MCHC-31.7* RDW-12.8 RDWSD-45.4 Plt Ct-82*
___ 07:33AM BLOOD WBC-5.5 RBC-2.51* Hgb-7.8* Hct-24.6* 
MCV-98 MCH-31.1 MCHC-31.7* RDW-12.7 RDWSD-45.6 Plt Ct-85*
___ 06:27AM BLOOD WBC-5.8 RBC-2.72* Hgb-8.5* Hct-26.2* 
MCV-96 MCH-31.3 MCHC-32.4 RDW-14.5 RDWSD-50.4* Plt Ct-81*
___ 07:04AM BLOOD WBC-5.9 RBC-2.86* Hgb-8.7* Hct-27.3* 
MCV-96 MCH-30.4 MCHC-31.9* RDW-14.1 RDWSD-49.1* Plt Ct-90*
___ 10:45AM BLOOD WBC-7.0 RBC-2.71* Hgb-8.3* Hct-26.2* 
MCV-97 MCH-30.6 MCHC-31.7* RDW-14.2 RDWSD-50.0* Plt Ct-93*
___ 02:31PM BLOOD WBC-6.9 RBC-2.85* Hgb-8.8* Hct-27.9* 
MCV-98 MCH-30.9 MCHC-31.5* RDW-14.0 RDWSD-49.8* Plt ___
___ 08:45AM BLOOD WBC-5.6 RBC-2.74* Hgb-8.4* Hct-26.8* 
MCV-98 MCH-30.7 MCHC-31.3* RDW-14.1 RDWSD-50.0* Plt Ct-99*
___ 06:55AM BLOOD WBC-6.0 RBC-2.65* Hgb-8.1* Hct-26.1* 
MCV-99* MCH-30.6 MCHC-31.0* RDW-13.8 RDWSD-49.2* Plt ___

___ 06:15AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Schisto-OCCASIONAL Burr-2+

___ 06:00PM BLOOD Plt ___
___ 06:08AM BLOOD ___ PTT-40.7* ___
___ 06:08AM BLOOD Plt Ct-98*
___ 06:15AM BLOOD Plt Ct-82*
___ 07:33AM BLOOD Plt Ct-85*
___ 06:27AM BLOOD Plt Ct-81*
___ 07:04AM BLOOD Plt Ct-90*
___ 10:45AM BLOOD Plt Ct-93*
___ 02:31PM BLOOD Plt ___
___ 08:45AM BLOOD Plt Ct-99*
___ 06:55AM BLOOD Plt ___

___ 06:08AM BLOOD Glucose-111* UreaN-35* Creat-2.1* Na-125* 
K-5.2* Cl-98 HCO3-19* AnGap-13
___ 04:52PM BLOOD Glucose-157* UreaN-35* Creat-2.1* Na-126* 
K-5.1 Cl-98 HCO3-17* AnGap-16
___ 06:15AM BLOOD Glucose-84 UreaN-36* Creat-2.1* Na-131* 
K-4.5 Cl-104 HCO3-13* AnGap-19
___ 05:18PM BLOOD Glucose-102* UreaN-39* Creat-2.3* Na-130* 
K-4.8 Cl-103 HCO3-14* AnGap-18
___ 07:33AM BLOOD Glucose-96 UreaN-37* Creat-2.1* Na-133 
K-4.3 Cl-105 HCO3-17* AnGap-15
___ 06:27AM BLOOD Glucose-88 UreaN-38* Creat-2.3* Na-133 
K-3.8 Cl-102 HCO3-19* AnGap-16
___ 07:04AM BLOOD Glucose-91 UreaN-38* Creat-2.1* Na-134 
K-3.8 Cl-102 HCO3-18* AnGap-18
___ 10:45AM BLOOD Glucose-107* UreaN-45* Creat-2.8* Na-134 
K-4.0 Cl-102 HCO3-20* AnGap-16
___ 02:31PM BLOOD Glucose-166* UreaN-45* Creat-2.6* Na-135 
K-3.8 Cl-102 HCO3-19* AnGap-18
___ 08:45AM BLOOD Glucose-96 UreaN-40* Creat-2.1* Na-135 
K-4.1 Cl-104 HCO3-20* AnGap-15
___ 06:55AM BLOOD Glucose-128* UreaN-40* Creat-2.1* Na-135 
K-3.7 Cl-103 HCO3-20* AnGap-16

___ 06:08AM BLOOD ALT-14 AST-24 LD(LDH)-159 AlkPhos-90 
TotBili-0.3
___ 06:08AM BLOOD Lipase-46

___ 11:53PM BLOOD cTropnT-<0.01
___ 10:27AM BLOOD cTropnT-0.01
___ 03:34PM BLOOD cTropnT-0.01

___ 06:08AM BLOOD Albumin-3.6 Calcium-8.8 Phos-3.9 Mg-1.7
___ 04:52PM BLOOD Calcium-8.8 Phos-3.9 Mg-1.6
___ 06:15AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.6
___ 05:18PM BLOOD Calcium-13.0* Phos-3.5 Mg-1.8
___ 07:33AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.7
___ 06:27AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.6
___ 07:04AM BLOOD Calcium-9.0 Phos-3.0 Mg-1.6
___ 10:45AM BLOOD Calcium-9.1 Phos-3.5 Mg-1.6
___ 02:31PM BLOOD Calcium-9.2 Phos-3.3 Mg-1.6
___ 08:45AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.5*
___ 06:55AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.6

___ 05:29PM BLOOD ___ pO2-221* pCO2-25* pH-7.37 
calTCO2-15* Base XS--8

___ 05:56PM BLOOD Lactate-0.7

___ 04:45PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:45PM URINE Blood-NEG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 04:45PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 04:45PM URINE Hours-RANDOM UreaN-474 Creat-85 Na-72 
K-47 Cl-57
___ 04:45PM URINE Osmolal-417
 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with CAD s/p multiple 
stents, HIV (on ART reportedly with undetectable VL), HCV s/p 
Harvoni (reportedly with undetectable VL) , CKD (baseline Cr 
1.9), HTN, and COPD who presented for evaluation of substernal, 
non-radiating, nonpositional, and noninspiratory ___ chest 
pain. 

#CAD: Pt is s/p Promus DES to mid-LAD, D1 branch, and distal-RCA 
on ___, s/p Premier DES to mLCX on ___, and BMS to LAD 
___. He had a Stress MIBI in ___ showing normal 
perfusion and no wall motion abnormalities.  

#Chest pain: Pt presented on ___ with substernal, non-radiating, 
nonpositional, noninspiratory, and nonreproducible ___ chest 
pain at rest. ECG on admission was notable for with <1 mm STE in 
lateral leads, consistent with prior and Troponin x2 were 
negative. His ___ chest pain decreased to ___ with SLN x2 in 
EMS, IV morphine in the ED, and x2 upon arrival to the floor.  
His clinical picture was c/f ACS, perhaps unstable angina given 
his hx, although cardiac enzymes were not elevated and there 
were no ECG findings. He was maintained on telemetry and ECGs 
were trended, w/o evidence of additional ischemic disease 
throughout his hospitalization. A ddx of PNA was also considered 
initially given the patient's admissions x2 (___) for RLL PNA 
and CXR on admission notable for RLL atelectasis, although 
patient had no fever, productive cough, worsening SOB, or 
leukocytosis to suggest this. Also considered that patient's 
chest pain was ___ to GERD/gas pains given his hx of GERD, 
belching and bloating on exam, and partial relief with 
simethicone upon arrival to the floor. PE was considered, but 
deemed unlikely given patient's pain was not pleuritic, he had 
no tachycardia/tachypnea, and he had normal O2sats. 
Musculoskeletal causes of his chest pain were also less likely 
given that his pain was not well localized or positional, and 
and there was no tenderness to palpation on exam. Pericarditis 
was unlikely given that pain did not increased with inspiration 
and did not improve w/sitting forward. On ___ AM, pt denied 
chest pain, said that his SOB and dry cough were at b/l as 
related to his COPD, although he continued to be nauseous and 
complained of abdominal discomfort and bloating as detailed 
below (see #Chronic abdominal pain). On ___, patient had 
pharmacologic nuclear stress test notable for ischemic changes: 
1 mm of downsloping ST segment depression was noted in the 
inferolateral leads and new, partially reversible, perfusion 
defects were noted in the LAD and LCx territory, c/f possible 
restenosis of prior proximal or distal LAD stents per report. 
Based on discussion between the patient's outpatient 
cardiologist (Dr. ___, inpatient consulting cardiology 
team, and primary team, it was considered that the nuclear 
defect noted on the stress test could be an artifact as 
patient's left arm was in the way during the imaging, and it was 
decided not to pursue inpatient catheterization, but to pursue 
an outpatient dobutamine echocardiogram. The decision was made 
at the point to optimize the patient medically from the 
standpoint of his known ischemic disease, and specifically focus 
on managing his hypertension, as discussed below (see 
#Hypertension). On ___, the patient had  additional abdominal 
pain, with repeat ECG unchanged from prior, and with troponin x2 
<0.01. Throughout his hospitalization, patient was maintained on 
his home ASA, carvedilol, diltiazem, and pravastatin as 
described below. His hydralazine regimen and isosorbide 
mononitrate ER regimen were changed as described below (see 
#Hypertension). Of note, the patient was intermittently 
emotional during his hospitalization in the context of 
confronting his multiple medical comorbidities. Social work and 
spiritual care were consulted, and provided resources to the 
patient to help with his coping. 

#HTN: Patient's recent outpatient BPs per OMR have been 
120s-170s/50s-70s. BP 180/71 on arrival to floor on ___, likely 
at least partially due to patient having missed BP doses at home 
iso chest pain. He received home isosorbide, hydralazine, 
carvedilol, amlodipine, and diltiazem at 12AM on night of 
admission, but had BP 210/80 overnight. He was asx w/o HA, CP, 
palpitations, or visual difficulty at that time. He received 
hydrazine 10 mg IV, w/repeat BP 180/70. BP 163/70 on ___. On 
___ AM, patient again had BP 211/73, but hydralazine 10 mg IV 
was deferred, as pt was set to receive his AM BP meds. BP on 
recheck after receiving home BP meds was 155/68 on ___. As 
described above (under #CAD/Chest pain), plan was made to 
optimize patient's BP management iso of his known ischemic 
disease. On ___, patient's home isosorbide dinitrate was 
increased from 30 mg to 40 mg TID and patient was also started 
on lisinopril 5 mg QD on ___ as detailed below (under ___ on 
CKD). After this change, ___ BPs ranged from 124-211/60-101, 
with max SBP still in the 190s, which was a slight improvement. 
On ___, BPs ranged from 125-178/47-80. On ___ AM, administered 
isosorbide dinitrate 40 mg plus isosorbide mononitrate ER 120 mg 
PO (total 160 mg on ___, with resulting BPs on ___ ranging 
from 120-180s/50s-80s. Given continued poor control and 
hesitation about escalating isosorbide total daily dose above 
120 mg, opted to modify regimen to isosorbide mononitrate ER 120 
mg PO QD on ___. Also changed his hydralazine from 75 mg PO q6hr 
to 100 mg PO q8hr, largely for ease of medication administration 
at home. At time of discharge, patient had BPs ranging from 
140-184/64-75. Of note, given patient's refractory hypertension 
in spite of being on multiple agents, considered that he may 
have secondary hypertension. Obtained renal U/S w/Doppler which 
showed no e/o renal artery stenosis and no e/o ischemic kidney 
damage. ___ consider additional workup for secondary causes of 
hypertension in outpatient setting. 

#Abdominal pain: Pt complained of nausea and abdominal "bloating 
and discomfort all over" on admission, but endorsed RUQ as site 
of most pain. He said that he had not had a BM since ___ hrs PTA 
and that normally he has BM x1 daily. His admission exam was 
notable for hyperactive BS throughout, significant abdominal 
distension, and slight ttp in the RUQ. It is likely that pt was 
experiencing discomfort ___ to gas in light of relief with 
simethicone. Considered biliary pathology/pancreatitis, but LFTs 
and lipase wnl on ___. It is most likely that patient was 
constipated, given that KUB on ___ was notable for mild gaseous 
distension of several loops of bowel c/w with gas and 
constipation. Colonoscopy ___ normal w/o polyps. Patient was 
continued on his home omeprazole, docusate, and senna, as well 
as simethicone. On ___, pt still had abdominal discomfort and 
bloating, but no tenderness to palpation, although he did pass 
"slight gas" on ___ and then had large BM on ___ ___ after 
starting polyethylene glycol. On ___ AM, abdomen was much softer 
on exam, although still somewhat distended, and this remained 
unchanged on ___. Per patient, this level of distension was his 
baseline. Patient had some additional abdominal pain on ___ AM, 
which improved with Maalox-diphenhydramine-lidocaine x2. Given 
c/f for possibility that abdominal pain was masking cardiac 
pain, EKG was performed, which was unchanged from prior, and 
troponins were cycled and were negative x2. Patient's abdominal 
pain was also contributing to a reduced appetite, and he diet 
was also supplemented with Ensure clears, starting on ___. Even 
though patient denies worsening abdominal pain w/eating, there 
was some c/f mesenteric ischemia given his significant CAD. 
Lactate level was obtained at 0.7, which was reassuring. In 
addition, patient endorsed that he has had chronic abdominal 
pain for several years w/frequent constipation/diarrhea, 
bloating, and flatulence. Formally possible that he has 
irritable bowel syndrome, and may benefit from GI evaluation as 
an outpatient.  

#CKD: Patient has baseline Cr 1.9 per OMR notes. Cr on admission 
2.1 on ___. This elevation was initially thought to be of a 
pre-renal etiology ___ to hypovolemia. However, the patient 
received multiple IVF boluses from ___ (total 3L) w/Cr still 
___ on ___. His Chem10 on ___ was also notable for HCO3 13, AG 
19, c/f non-anion gap metabolic acidosis (see #non-anion gap 
metabolic acidosis). Renal was consulted regarding the etiology 
of the patient's kidney dysfunction. The patient endorsed to the 
renal team that he has had proteinuria (frothy urine) for many 
years raising c/f glomerular disease, such as FSGS or membranous 
nephropathy. HIVAN was deemed unlikely given well-controlled HIV 
viral load (undetectable on this admission). Per renal, there 
was no indication for biopsy. The patient was started on 
lisinopril 5 mg QD on ___. He was also continued on his home 
bicarbonate 1300 mg PO TID. His medications were renal dosed and 
nephrotoxic agents were avoided. Cr 2.1 remained throughout 
remainder of hospitalization w/exception of bump to 2.8 on ___ 
AM, which was likely prerenal ___ hypovolemia, as Cr resolved 
back to 2.1 on ___ after patient received 1L LR. At time of 
discharge on ___, Cr 2.1. Patient's chem10 should be rechecked 
on ___, two weeks after initiation of lisinopril 5 mg QD. 

#Non-anion gap metabolic acidosis: Patient's HCO3 13 on ___ with 
AG 19. Patient had been having loose stools PTA, which may have 
been contributing. Also received 3L of NS on ___ as described 
above under #CKD. Prior OMR notes suggest that patient may have 
RTA. Renal was consulted as above. Pt had urine pH 6.5 on ___ 
and one would have expected lower urine pH iso HCO3 13, and so 
picture was c/f RTA 1 (distal) and RTA2 (proximal tubule). Of 
note, patient lacked glucosuria, phosphaturia/low serum 
phosphorous, or low vit D that would be c/w RTA2. On ___, urine 
studies were notable for UreaN:474, Creat:85, Na:72, K:47, 
Cl:57, UOsm:417, HCO3 14 and VBG notable for pH 7.37, pCO2 25, 
pO2 225, HCO3 15. With correction, pH 7.41, pCO2 21, serum HCO3, 
likely indicating a mixed picture, specifically NAGMA with 
additional respiratory alkalosis (although patients respiratory 
rates were not elevated). UA pH 6.5. UAG = 62. HCO3 17 on ___, 
c/w distal RTA.  Patient's home bicarbonate 2300 mg PO TID was 
continued as above. 

#Hyponatremia. Patient has hx of SIADH per note in OMR in ___, 
where he had persistent hyponatremia, with urinary Na 
persistently <20 and UOsm in the 300s, and TSH and AM cortisol 
wnl. At that time, IVF challenge x2 was w/o improvement in Na. 
On this admission, Na 125 on presentation, w/ hypotonic 
hyponatremia given SOsm 272, with UNa 21 and UOsm 416 c/w mixed 
picture of hypovolemic hyponatremia and SIADH. Patient was 
initiated on 2L PO fluid restriction given c/f SIADH. Previously 
normal Na 134 in ___. The patient had no JVD or peripheral 
edema, and does not appear volume overloaded on exam. He was 
A&Ox3 w/o MS changes throughout hospitalization. He received 
500cc NS on admission as above, w/repeat Na 125 (no change) on 
___ AM, c/w with SIADH. He then received 1L NS bolus over 1 hr 
on ___, with Chem10 post-bolus notable for Na 126, suggesting 
slight improvement with fluids, and definite component of 
hypovolemia. On ___ Na ___ s/p mIVF @125cc/hr, more c/w 
hypovolemic hyponatremia rather than SIADH and 2L PO fluid 
restriction was discontinued. Since ___, pt's Na ranged from 
133-135. 

#Atelectasis. Patient was recently admitted in ___ and 
___ with RLL pneumonia. On the first admission, he 
was treated initially with azithromycin/ceftriaxone, 
transitioned first to Vanc/Zosyn, and then transitioned to 
levofloxacin that was completed on ___ prior to discharge. 
On second admission, he was treated with vanc/zosyn, and 
transitioned to levofloxacin- completed on ___. Patient reported 
shortness of breath and nonproductive cough that are chronic for 
him during admission. He was afebrile and w/o leukocytosis 
throughout hospitalization. CXR on admission ___ was notable for 
possible RLL opacification suggestive of either resolving 
infection vs atelectasis. Although the patient had no no clear 
PNA sx, his reported chest pain could have been ___ to R lung 
infection, although this was unlikely.  Patient was encouraged 
to use incentive spirometry throughout hospitalization. Also 
continued his home Spiriva and albuterol inhaler as below. 

#Thrombocytopenia: Patient with plt ranging from ___ 100s 
throughout admission. He has had chronic interrmiten 
thrombocytopenia with plt ___ per OMR notes for last few 
years. Of note, he did have an increase into low 200s during 
admission in ___ for PNA, but this was likely reactive 
thrombocytosis iso infection. Possible etiology of his 
thrombocytopenia includes HCV cirrhosis, although albumin 3.6 
and INR 1.1 on ___, suggestive of preserved liver synthetic 
function. Also possible that his thrombocytopenia is related to 
chronic tx with Abacavir and Lamivudine. Also could consider 
ITP.

#Anemia: Patient has chronic anemia with b/l H&H ___. H/H 
7.___.1 on admission on ___. H&H 7.8/___.6 on ___ and ___. 
Received 1 unit pRBC on ___ (given known ischemic disease as 
described above), with repeat H&H 8.5/26.2 on ___. Considered 
initially that there may also be a dilutional component given 
plt also down from 98 on admission to 82 on ___ iso having 
received 3L IVF on ___, but no IVF since then, and plt still 81 
on ___, w/ H&H ranging between 8.1-8.___.1-27.3 (i.e, close to 
baseline) throughout remainder of admission. 

#HIV/HCV co infection w/cirrhosis. Per OMR notes, patient's 
disease is complicated by known portal HTN. Last EGD on ___ 
showed no esophageal varices and last RUQUS ___ for ___ 
screening was notable for cirrhosis w/o lesions suggestive HCC. 
HIV viral load was undetectable during admission. Patient was 
continued on his home Abacavir, Efavirenz, and Lamivudine.   
  
#COPD: Patient was admitted with chronic SOB and dry cough. 
There were no wheezes on exam, and minimal c/f acute COPD 
exacerbation.  Patient was continued on his home albuterol 
inhaler and Spiriva and encouraged to use incentive spirometry. 

#HLD: Patient was continued on his home Pravastatin.

#GERD: Patient was continued on his home omeprazole.   

TRANSITIONAL ISSUES:
====================== 
#Patient, who was started on lisinopril 5 mg QD on ___ for 
renal protective effects and adjunct for BP control, should have 
repeat chem10 on ___. 
#Patient has history of refractory hypertension, and during 
admission had BPs spiking to 180s-210s several times. Patient 
had inpatient renal U/S w/Doppler w/o evidence of renal artery 
stenosis or ischemic kidney damage. He may benefit from 
additional outpatient evaluation for secondary causes of 
hypertension. He may also benefit from the addition of a 
diuretic (loop or thiazide) to his BP regimen. 
#Patient had in house cardiac pharmacologic nuclear stress test 
which was equivocal for reversible perfusion benefit. Per 
patient's outpatient cardiologist, Dr. ___, please 
consider evaluation with dobutamine echocardiogram in outpatient 
setting.
#Patient had abdominal distention w/pain, diarrhea/constipation, 
and flatulence throughout admission, which he says is chronic 
for him. He had a workup with normal LFTs, lipase, and lactate, 
and KUB notable for gaseous distention c/w constipation, but no 
obstruction. Please evaluate in outpatient setting for irritable 
bowel syndrome and consider outpatient GI follow-up. 
#Patient has appointment with his PCP, ___ on 
___ at 11:00AM (___). 
#Patient has appointment with nephrology, Dr. ___ 
___, on ___ at 1:20PM (___). 
#Patient will be called by Dr. ___ office 
(___) to schedule a cardiology appointment. Patient 
should call office if he has not heard within two days following 
discharge. 
#Code status: Full code
#HCP: ___, niece ___, mobile: 
___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Abacavir Sulfate 300 mg PO BID 
2. Acetaminophen 325-650 mg PO Q6H:PRN pain 
3. Amlodipine 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Carvedilol 25 mg PO BID 
6. Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed 
7. Diltiazem Extended-Release 120 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Efavirenz 600 mg PO DAILY 
10. HydrALAZINE 75 mg PO QID 
11. ipratropium-albuterol ___ mcg/actuation INHALATION QID 
12. Isosorbide Mononitrate (Extended Release) 90 mg PO DAILY 
13. LaMIVudine 100 mg PO DAILY 
14. Multivitamins 1 TAB PO DAILY 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Omeprazole 20 mg PO DAILY 
17. Sodium Bicarbonate 1300 mg PO TID 
18. Ondansetron 4 mg PO Q8H:PRN nausea 
19. Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain 
20. Oxybutynin 5 mg PO DAILY 
21. Tolterodine 2 mg PO QHS 
22. Pravastatin 20 mg PO QPM 
23. Cyanocobalamin ___ mcg PO DAILY 
24. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
25. Senna 8.6 mg PO BID 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*14 
Tablet Refills:*0 
2.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
once a day Refills:*0 
3.  Simethicone 40-80 mg PO QID:PRN gas pains  
4.  HydrALAZINE 100 mg PO Q8H 
RX *hydralazine 100 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*42 Tablet Refills:*0 
5.  Isosorbide Mononitrate (Extended Release) 120 mg PO DAILY 
RX *isosorbide mononitrate 120 mg 1 tablet(s) by mouth once a 
day Disp #*14 Tablet Refills:*0 
6.  Abacavir Sulfate 300 mg PO BID  
7.  Acetaminophen 325-650 mg PO Q6H:PRN pain  
8.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
9.  Amlodipine 10 mg PO DAILY  
10.  Aspirin 81 mg PO DAILY  
11.  Carvedilol 25 mg PO BID  
12.  Cyanocobalamin ___ mcg PO DAILY  
13.  Desonide 0.05% Cream 1 Appl TP PRN apply to face as needed  

14.  Diltiazem Extended-Release 120 mg PO DAILY  
15.  Docusate Sodium 100 mg PO BID  
16.  Efavirenz 600 mg PO DAILY  
17.  ipratropium-albuterol ___ mcg/actuation INHALATION QID  
18.  LaMIVudine 100 mg PO DAILY  
19.  Maalox/Diphenhydramine/Lidocaine 15 mL PO TID:PRN stomach 
pain  
20.  Multivitamins 1 TAB PO DAILY  
21.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
22.  Omeprazole 20 mg PO DAILY  
23.  Ondansetron 4 mg PO Q8H:PRN nausea  
24.  Oxybutynin 5 mg PO DAILY  
25.  Pravastatin 20 mg PO QPM  
26.  Senna 8.6 mg PO BID  
27.  Sodium Bicarbonate 1300 mg PO TID  
28.  Tolterodine 2 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
=================
Coronary artery disease
Hypertension
Chronic abdominal pain
Acute Kidney Injury
Chronic kidney Disease
Hyponatremia
Non-anion-gap metabolic acidosis
Anemia
Atelectasis

SECONDARY DIAGNOSES:
=================
Thrombocytopenia
Hyperlipidemia
COPD
Gastroesophageal reflux disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted with chest pain that was concerning for 
progression of your known coronary artery disease. We found that 
your cardiac enzymes and ECG did not show evidence of additional 
ischemic disease. We also evaluated you with a cardiac stress 
test, and the results were discussed with your cardiologist Dr. 
___. Based on the discussion, we pursued a plan to 
optimize the medical management of your heart disease. 
Specifically, we started you on additional medications to 
control your blood pressure and also changed doses of some of 
your current medications. 

Following discharge, please make sure that you keep the 
following appointments:

#Appointment with your PCP, ___, on ___ at 
11:00AM at ___, ___ (___). 
#Appointment with Dr. ___, at ___ clinic 
at ___ ___, ___ floor, on ___ at 
1:20PM (___).
#Dr. ___ office ___ be calling you to set up an 
appointment in the cardiology clinic. If you have not heard from 
them within 2 business days of discharge, please call them at 
___.

It was a pleasure taking care of you!

We wish you all the best!

Sincerely, 

Your team at ___
 
Followup Instructions:
___